US05260307
14.4 ml of triethylamine are added dropwise to 6.91 g of glycine t-butyl ester hydrochloride and 12.1 g of 2-naphthylsulfonyl chloride in 70 ml of methylene chloride. The reaction mixture is subsequently diluted with 200 ml of ether. The organic phase is washed with 1N hydrochloric acid and with water. After drying and evaporation the residue is suspended in ether and suction filtered. After drying the crystals there are obtained 11.57 g of N-(2-naphthylsulfonyl)-glycine t-butyl ester, Rf=0.49 (ether/hexane 2:1).

reactant | triethylamine | 14.4 ml | C(C)N(CC)CC | C6H15N
reactant | glycine t-butyl ester hydrochloride | 6.91 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | 2-naphthylsulfonyl chloride | 12.1 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 200 ml | CCOCC | C4H10O
product | N-(2-naphthylsulfonyl)-glycine t-butyl ester | 11.57 g | C(C)(C)(C)OC(CNS(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O | C16H19NO4S
